US08802704B2
Step 1: 3-{[bis(2-hydroxyethyl)amino]methyl}benzonitrile
The title compound was prepared following the general procedure 10, starting from 3-(bromomethyl)benzonitrile and diethanolamine. It was obtained as a colorless oil (820 mg, 73%). LC/MS (Method B): 219.1 (M−H)−, 221.1 (M+H)+.

reactant | 3-(bromomethyl)benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
reactant | diethanolamine | N(CCO)CCO | C4H11NO2
product | 3-{[bis(2-hydroxyethyl)amino]methyl}benzonitrile | OCCN(CCO)CC=1C=C(C#N)C=CC1 | C12H16N2O2
